US07449456B2
2-Methoxy-5-methylbenzamide was treated in the same manner as the reduction shown in Reference Example 2 and further treated with 4 M hydrogen chloride/ethyl acetate solution to obtain 2-methoxy-5-methylbenzylamine. F: 152.

reactant | 2-Methoxy-5-methylbenzamide | COC1=C(C(=O)N)C=C(C=C1)C | C9H11NO2
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
product | 2-methoxy-5-methylbenzylamine | COC1=C(CN)C=C(C=C1)C | C9H13NO
